US06956050B2
STEP 1. 2-[4-(4-phenyl-1H-imidazol-1-yl)phenyl]ethanol
A mixture of 4-phenylimidazole (4.32 g, 30 mmol), Bromophenethyl alcohol (10.5 ml, 75 mmol), CuBr (10.4 g, 72 mmol) and Na2CO3 (3.8 g, 36 mmol) in 1,3-dimethyl-2-imidazolidinone (100 mL) was stirred at 180° C. for 36 h. After cooling, to the mixture was added 25% NH3 aq. (50 mL). After 30 min, insoluble materials were removed by Celite filtration and washed with dichloromethane. The aqueous layer was extracted with dichloromethane. The organic phase was dried (MgSO4) and concentrated under reduced pressure. To the residue was added diisopropylether (100 mL) and the flask was cooled to 0° C. Filtration of the diisopropylether gave 4.01 g of the title compound as colorless solid (51%): MS (ESI) m/z 265 [M+H]+, 1H-NMR (CDCl3) δ 2.94 (2H, t, J=6.4 Hz), 3.93 (2H, br), 7.26-7.30 (2H, m), 7.35-7.44 (5H, m), 7.55 (1H, d, J=1.2 Hz), 7.82-7.86 (3H, m).

reactant | 4-phenylimidazole | 30 mmol, 4.32 g | C1(=CC=CC=C1)C=1N=CNC1 | C9H8N2
reactant | Bromophenethyl alcohol | 75 mmol, 10.5 ml | BrC(CC1=CC=CC=C1)O | C8H9BrO
reactant | Na2CO3 | 36 mmol, 3.8 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NH3 | 50 mL | N | H3N
solvent | 1,3-dimethyl-2-imidazolidinone | 100 mL | CN1C(N(CC1)C)=O | C5H10N2O
product | 2-[4-(4-phenyl-1H-imidazol-1-yl)phenyl]ethanol | 4.01 g, 51% | C1(=CC=CC=C1)C=1N=CN(C1)C1=CC=C(C=C1)CCO | C17H16N2O
